US06413995B1
4.08 g of N-(3-pyridylmethyl)trifluoroacetic acid amide was dissolved in 40 ml dimethylformamide, and then stirred with 880 mg of 60% sodium hydride on ice for 15 minutes. 1.47 ml methyl iodide was added to the reaction mixture on ice, followed by stirring at room temperature for 4 hours. After addition of water, the reaction mixture was extracted with ethyl acetate, washed with water, and then dried over magnesium sulfate. The solvent was evaporated under reduced pressure to give a residue, which was then purified via column chromatography on silica gel (chloroform:methanol=50:1) to provide N-methyl-N-(3-pyridylmethyl)trifluoroacetic acid amide (3.71 g, 85%) as a pale yellow oil.

reactant | N-(3-pyridylmethyl)trifluoroacetic acid amide | 4.08 g | N1=CC(=CC=C1)CNC(C(F)(F)F)=O | C8H7F3N2O
reactant | sodium hydride | 880 mg | [H-].[Na+]
reactant | methyl iodide | 1.47 ml | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | N-methyl-N-(3-pyridylmethyl)trifluoroacetic acid amide | 3.71 g, 85% | CN(C(C(F)(F)F)=O)CC=1C=NC=CC1 | C9H9F3N2O
